US05418229
Preparation 2 5- (4-Chlorobutyryl)-10,11-dihydrodibenzo [b,e][1,4]diazepin-11-one
A mixture of 4-chlorobutyryl chloride (3.5 g) and 10,11-dihydrodibenzo[b,e][1,4]diazepin-11-one (4.2 g) (J. Med. Chem., 1963, 6, 767) in acetone (90 ml) was heated under reflux for 8 hours and evaporated. The residue was purified by chromatography on silica using hexane plus 0-100% dichloromethane as eluant. Appropriate fractions were combined and evaporated and the residue triturated with hexane/dichloromethane to give the title compound as a colourless solid, 1.62 g (26%), m.p. 151°-152° C.

reactant | 4-chlorobutyryl chloride | 3.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 10,11-dihydrodibenzo[b,e][1,4]diazepin-11-one | 4.2 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 5- (4-Chlorobutyryl)-10,11-dihydrodibenzo [b,e][1,4]diazepin-11-one | ClCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C17H15ClN2O2
